US09233979B2
To an 8 mL vial charged with (R)-1-(3-amino-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (25 mg, 0.046 mmol) in DCM (1 ml) was added ethyl isocyanate (5.51 μl, 0.070 mmol) and DIEA (0.024 ml, 0.139 mmol). The vial was capped and the contents stirred at room temperature for 16 h. The course of reaction was followed by LCMS analysis. Only minor product formation was observed. Excess isocyanate (1.5 eq) was added and the reaction mixture heated to 40° C. for a further 16 h. Unreacted isocyanate was quenched by adding MP-Trisamine (229 mg, 0.464 mmol) and tumbling the vial for 3 h. The resin was filtered and the volatiles removed in vacuo to afford crude (R)-1-(3-(3-ethylureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea which was taken forward without purification. MS ESI calc'd. For C37H36N7O2 [M+H]+ 610. found 610.

reactant | (R)-1-(3-amino-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.046 mmol, 25 mg | NC1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C34H30N6O
reactant | ethyl isocyanate | 0.070 mmol, 5.51 μl | C(C)N=C=O | C3H5NO
reactant | DIEA | 0.139 mmol, 0.024 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | isocyanate | 1.5 eq | [N-]=C=O
reactant | Trisamine | 0.464 mmol, 229 mg | C(C(CO)(CO)N)O | C4H11NO3
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | (R)-1-(3-(3-ethylureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | C(C)NC(NC1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C37H35N7O2
